US07273879B2
Into the mixture of 20 ml of toluene and 10 ml of water were added 2.53 g of 4-methoxybenzylisothiourea hydrogen chloride, 2.03 g of perchloromethyl mercaptan, and 50 mg of benzyltriethylammonium chloride, and a solution of 1.74 g of sodium hydroxide in 10 ml of water was added dropwise to the mixture at about 0° C. over 4 hours. After the addition, the mixture was stirred for 1 hour at room temperature. Into the reaction mixture was added t-butyl methyl ether, and extracted. The organic layer was dried over anhydrous sodium sulfate, concentrated, and the residue obtained was subjected to silica gel column chromatography to give 5.38 g of 5-chloro-3-(4-methoxybenzyl)thio-1,2,4-thiadiazole.

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-methoxybenzylisothiourea hydrogen chloride | 2.53 g | Cl.COC1=CC=C(CNC(S)=N)C=C1
reactant | perchloromethyl mercaptan | 2.03 g | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 1.74 g | [OH-].[Na+]
reactant | t-butyl methyl ether | COC(C)(C)C | C5H12O
catalyst | benzyltriethylammonium chloride | 50 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 5-chloro-3-(4-methoxybenzyl)thio-1,2,4-thiadiazole | 5.38 g | ClC1=NC(=NS1)SCC1=CC=C(C=C1)OC | C10H9ClN2OS2
